US05126337
Ethyl 8-chloro-6,7-difluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto [3,2-a]quinoline-3-carboxylate
To a suspension of 13.7 g of 1,1-dibromoethane, 5.7 g of potassium iodide and 9.5 g of potassium carbonate in 60 ml of N,N-dimethylformamide, a solution of 11.1 g of ethyl 8-chloro-6,7-difluoro-4-hydroxy-2-mercaptoquinoline-3-carboxylate in 240 ml of N,N-dimethylformamide was added dropwise at from 110° C. to 115° C. during 2 hours with stirring. After stirring for 30 minutes at the same temperature, the reaction mixture was concentrated in vacuo and water was added to the residue. The precipitate was collected by filtration and chromatographed on silica gel using chloroform. The eluent was recrystallized from a mixture of chloroform and diethyl ether to give colorless needles, m.p. 191°-194° C.

reactant | 1,1-dibromoethane | 13.7 g | BrC(C)Br | C2H4Br2
reactant | potassium iodide | 5.7 g | [I-].[K+]
reactant | potassium carbonate | 9.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 8-chloro-6,7-difluoro-4-hydroxy-2-mercaptoquinoline-3-carboxylate | 11.1 g | ClC=1C(=C(C=C2C(=C(C(=NC12)S)C(=O)OCC)O)F)F | C12H8ClF2NO3S
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
product | Ethyl 8-chloro-6,7-difluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto [3,2-a]quinoline-3-carboxylate | ClC=1C(=C(C=C2C(C(=C3N(C12)C(S3)C)C(=O)OCC)=O)F)F | C14H10ClF2NO3S
